### PR TITLE
Homogenizing Require-Imports

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

**Comment by DafinaTrufas** [comment]
I found it easier to create a new branch and restart the whole process, rather than resolving the conflicts caused accidentally in the old one. Sorry for taking so long to fix it! I will address Karl's review about `Coq` imports soon.

File: theories/VLSM/Core/Composition.v [hunk 1]
```diff
@@ -1,13 +1,13 @@
...
-From VLSM Require Import Lib.Preamble Lib.ListExtras.
-From VLSM Require Import Core.VLSM Core.Plans Core.VLSMProjections.
+From VLSM.Lib Require Import Preamble ListExtras.
+From VLSM.Core Require Import VLSM Plans VLSMProjections.
 
 (** * VLSM Composition *)
 
 (**
-This module provides Coq definitions for composite VLSMs and their projections
+This module providesFrom Coq Require Import definitions for composite VLSMs and their projections
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:10]: This looks like an unintended modification by a script. Please roll back.

File: theories/VLSM/Core/VLSM.v [hunk 2]
```diff
@@ -15,7 +15,7 @@ This module provides basic VLSM infrastructure.
 The type of a VLSM is a triple consisting of the underlying types of
 messages, states, and labels.
 
-In Coq it is defined as a Class taking <<message>> as parameter and having
+InFrom Coq Require Import it is defined as a Class taking <<message>> as parameter and having
```
Comment (palmskog) [inline theories/VLSM/Core/VLSM.v:18]: This should be rolled back.

File: theories/VLSM/Lib/ListSetExtras.v [hunk 3]
```diff
@@ -462,7 +462,7 @@ Qed.
 (** An improved version of the [set_diff_nodup] Lemma not requiring [NoDup]
 for the second argument.
 *)
-(* TODO(palmskog): consider submitting a PR to Coq's stdlib. *)
+(* TODO(palmskog): consider submitting a PR toFrom Coq Require Import s stdlib. *)
```
Comment (palmskog) [inline theories/VLSM/Lib/ListSetExtras.v:465]: Another roll back.

File: theories/VLSM/Lib/Preamble.v [hunk 4]
```diff
@@ -140,7 +140,7 @@ Lemma tc_reflect_irreflexive
   `(R : relation A) `{!Irreflexive (tc R)} : Irreflexive R.
 Proof. by intros ? ?; eapply irreflexivity with (R := tc R); [| constructor]. Qed.
 
-(* TODO(traian): remove these definitions and use the standard stdpp ones instead.*)
+(* TODO(traian): remove these definitions and use the standardFrom stdpp Require Import ones instead.*)
```
Comment (palmskog) [inline theories/VLSM/Lib/Preamble.v:143]: Another roll back.

File: theories/VLSM/Core/Equivocators/Composition/SimulatingFree/SimulatingFree.v [hunk 5]
```diff
@@ -1,12 +1,12 @@
 From stdpp Require Import prelude finite.
-From Coq Require Import FinFun FunctionalExtensionality.
-From VLSM Require Import Lib.Preamble Lib.ListExtras.
-From VLSM Require Import Core.VLSM Core.VLSMProjections Core.Composition Core.SubProjectionTraces.
-From VLSM Require Import Core.Equivocation Core.Equivocation.NoEquivocation.
-From VLSM Require Import Core.Equivocators.Equivocators.
-From VLSM Require Import Core.Equivocators.Composition.EquivocatorsComposition.
-From VLSM Require Import Core.Equivocators.Composition.EquivocatorsCompositionProjections.
-From VLSM Require Import Core.Equivocators.Composition.SimulatingFree.FullReplayTraces.
+From Coq Require Import Logic.FinFun Logic.FunctionalExtensionality.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/SimulatingFree/SimulatingFree.v:2]:
```suggestion
From Coq Require Import FinFun FunctionalExtensionality.
```

File: theories/VLSM/Core/Equivocators/Composition/SimulatingFree/FullReplayTraces.v [hunk 6]
```diff
@@ -1,12 +1,12 @@
 From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto auto.
 From stdpp Require Import prelude finite.
-From Coq Require Import FinFun Program.
-From VLSM Require Import Lib.Preamble Lib.ListExtras.
-From VLSM Require Import Core.VLSM Core.VLSMProjections Core.Composition Core.SubProjectionTraces.
-From VLSM Require Import Core.Equivocation Core.Equivocation.NoEquivocation.
-From VLSM Require Import Core.Equivocators.Equivocators Core.Equivocators.EquivocatorsProjections Core.Equivocators.EquivocatorReplay.
-From VLSM Require Import Core.Equivocators.MessageProperties Core.Equivocators.Composition.EquivocatorsComposition.
-From VLSM Require Import Core.Equivocators.Composition.EquivocatorsCompositionProjections Core.Plans.
+From Coq Require Import Logic.FinFun Program.Program.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/SimulatingFree/FullReplayTraces.v:3]:
```suggestion
From Coq Require Import FinFun Program.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 7]
```diff
@@ -2,8 +2,8 @@ From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto aut
 From stdpp Require Import prelude.
 From Coq Require Import FunctionalExtensionality.
 From VLSM.Core Require Import VLSM.
-From VLSM.Core.VLSMProjections Require Export VLSMPartialProjection VLSMTotalProjection.
-From VLSM.Core.VLSMProjections Require Export VLSMEmbedding VLSMInclusion VLSMEquality.
+From VLSM.Core Require Export VLSMProjections.VLSMPartialProjection VLSMProjections.VLSMTotalProjection.
+From VLSM.Core Require Export VLSMProjections.VLSMEmbedding VLSMProjections.VLSMInclusion VLSMProjections.VLSMEquality.
```
Comment (palmskog) [inline theories/VLSM/Core/VLSMProjections.v:6]: Looks like some paths are overspecified here compared to the original, see also elsewhere.
```suggestion
From VLSM.Core Require Export VLSMPartialProjection VLSMTotalProjection.
From VLSM.Core Require Export VLSMEmbedding VLSMInclusion VLSMEquality.
```

File: theories/VLSM/Lib/Preamble.v [hunk 8]
```diff
@@ -1,4 +1,4 @@
-From Coq Require Export Program.Tactics.
+From Coq Require Export Tactics.
```
Comment (palmskog) [inline theories/VLSM/Lib/Preamble.v:1]: This special case is conventional to spell out.
```suggestion
From Coq Require Export Program.Tactics.
```

**Review by palmskog — CHANGES_REQUESTED** [review]
Looks good in general, but please take a look at the comments and suggestions.

File: theories/VLSM/Core/Equivocation/WitnessedEquivocation.v [hunk 9]
```diff
@@ -2,7 +2,7 @@ From stdpp Require Import prelude.
 From VLSM.Lib Require Import Preamble ListExtras StdppListSet ListSetExtras.
 From VLSM.Core Require Import VLSM VLSMProjections Composition.
 From VLSM.Core Require Import SubProjectionTraces MessageDependencies Equivocation.
-From VLSM.Core Require Import NoEquivocation FixedSetEquivocation TraceWiseEquivocation.
+From VLSM.Core Require Import Equivocation.NoEquivocation Equivocation.FixedSetEquivocation Equivocation.TraceWiseEquivocation.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation/WitnessedEquivocation.v:5]:
```suggestion
From VLSM.Core Require Import NoEquivocation FixedSetEquivocation TraceWiseEquivocation.
```

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v [hunk 10]
```diff
@@ -1,11 +1,11 @@
 From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto auto.
 From stdpp Require Import prelude finite.
-From Coq Require Import FinFun FunctionalExtensionality.
-From VLSM Require Import Lib.Preamble Lib.ListSetExtras Lib.StdppExtras.
-From VLSM Require Import Lib.FinExtras Lib.Measurable.
-From VLSM Require Import Core.VLSM Core.VLSMProjections Core.Plans Core.Composition Core.Equivocation Core.SubProjectionTraces Core.Equivocation.NoEquivocation.
-From VLSM Require Import Core.Equivocators.Equivocators.
-From VLSM Require Import Core.Equivocators.MessageProperties.
+From Coq Require Import Logic.FinFun Logic.FunctionalExtensionality.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsComposition.v:3]:
```suggestion
From Coq Require Import FinFun FunctionalExtensionality.
```

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v [hunk 11]
```diff
@@ -1,11 +1,11 @@
 From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto auto.
-From Coq Require Import FinFun FunctionalExtensionality.
+From Coq Require Import Logic.FinFun Logic.FunctionalExtensionality.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v:2]:
```suggestion
From Coq Require Import FinFun FunctionalExtensionality.
```

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v [hunk 12]
```diff
@@ -1,11 +1,11 @@
...
 From stdpp Require Import prelude finite.
 From VLSM.Lib Require Import Preamble ListExtras StdppListSet.
 From VLSM.Core Require Import VLSM VLSMProjections Composition ProjectionTraces Validator.
 From VLSM.Core Require Import SubProjectionTraces Equivocation.
-From VLSM.Core.Equivocation Require Import NoEquivocation.
-From VLSM.Core.Equivocators Require Import Equivocators EquivocatorsProjections Composition.EquivocatorsComposition MessageProperties.
+From VLSM.Core Require Import Equivocation.NoEquivocation.
+From VLSM.Core Require Import Equivocators.Equivocators Equivocators.EquivocatorsProjections Equivocators.Composition.EquivocatorsComposition Equivocators.MessageProperties.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v:8]: Please split this one across two lines to avoid length concerns.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v [hunk 13]
```diff
@@ -173,7 +173,7 @@ Proof.
     apply elem_of_list_lookup.
     rewrite StdppExtras.last_last_error in Hlast.
     replace (Some _) with (last im_etr).
-    clear. (* TODO: replace with stdpp.list.last_lookup once it becomes available *)
+    clear. (* TODO: replace withFrom stdpp Require Import list.last_lookup once it becomes available *)
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v:176]: Please roll back the changes here.

File: theories/VLSM/Lib/TraceProperties.v [hunk 14]
```diff
@@ -1,5 +1,5 @@
-From Coq Require Import Program.Equality.
-From VLSM Require Import Lib.SsrExport Lib.Traces.
+From Coq Require Import Equality.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:1]: This is another special case.
```suggestion
From Coq Require Import Program.Equality.
```

**Review by palmskog — CHANGES_REQUESTED** [review]
Looks better, but some polish is still needed, please see comments

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v [hunk 15]
```diff
@@ -1,14 +1,14 @@
 From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto auto.
 From stdpp Require Import prelude finite.
-From Coq Require Import FinFun Reals.
+From Coq Require Import Logic.FinFun Reals.Reals.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v:3]:
```suggestion
From Coq Require Import FinFun Reals.
```

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v [hunk 16]
```diff
@@ -1,15 +1,16 @@
...
-From VLSM Require Import Lib.StdppListSet.
-From VLSM Require Import Core.VLSM Core.VLSMProjections Core.Composition Core.AnnotatedVLSM.
-From VLSM Require Import Core.Equivocation Core.Equivocation.FixedSetEquivocation.
-From VLSM Require Import Lib.Measurable Core.Equivocation.TraceWiseEquivocation Core.Equivocation.LimitedMessageEquivocation Core.Equivocation.MsgDepLimitedEquivocation.
-From VLSM Require Import MessageDependencies Core.Equivocation.WitnessedEquivocation.
-From VLSM Require Import Core.Equivocators.Composition.EquivocatorsComposition Core.Equivocators.Composition.EquivocatorsCompositionProjections.
-From VLSM Require Import Core.Equivocators.Composition.LimitedEquivocation.LimitedStateEquivocation.
-From VLSM Require Import Core.Equivocators.Composition.LimitedEquivocation.FixedEquivocationSimulation.
-From VLSM Require Import Core.Equivocators.Composition.LimitedEquivocation.FixedEquivocation.
+From Coq Require Import Logic.FinFun Reals.Reals.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocationSimulation.v:3]:
```suggestion
From Coq Require Import FinFun Reals.
```

**Review by palmskog — APPROVED** [review]
Looks mergeable now, but two final nitpicks.

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 17]
```diff
@@ -2,8 +2,8 @@ From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto aut
 From stdpp Require Import prelude finite.
 From Coq Require Import FunctionalExtensionality.
 From VLSM.Lib Require Import Preamble StdppListSet FinFunExtras ListExtras.
-From VLSM Require Import Core.VLSM Core.MessageDependencies Core.ProjectionTraces Core.VLSMProjections Core.Composition Core.SubProjectionTraces Core.ByzantineTraces.
-From VLSM Require Import Core.Validator Core.Equivocation Core.EquivocationProjections Core.Equivocation.NoEquivocation Core.Equivocation.FixedSetEquivocation.
+From VLSM.Core Require Import VLSM MessageDependencies ProjectionTraces VLSMProjections Composition SubProjectionTraces ByzantineTraces.
+From VLSM.Core Require Import Validator Equivocation EquivocationProjections Equivocation.NoEquivocation Equivocation.FixedSetEquivocation.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:6]: Maybe you could split these `Equivocation.` into a separate line `From VSLM.Core.Equivocation Require Import ...`.

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v [hunk 18]
```diff
@@ -3,8 +3,8 @@ From Coq Require Import Reals.
 From stdpp Require Import prelude.
 From VLSM.Lib Require Import Preamble ListExtras StdppListSet ListSetExtras Measurable StdppExtras.
 From VLSM.Core Require Import VLSM AnnotatedVLSM MessageDependencies VLSMProjections Composition SubProjectionTraces.
-From VLSM.Core.Equivocation Require Import FixedSetEquivocation LimitedMessageEquivocation.
-From VLSM.Core.Equivocation Require Import MsgDepFixedSetEquivocation TraceWiseEquivocation.
+From VLSM.Core Require Import Equivocation.FixedSetEquivocation Equivocation.LimitedMessageEquivocation.
+From VLSM.Core Require Import Equivocation.MsgDepFixedSetEquivocation Equivocation.TraceWiseEquivocation.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:7]: I'm not sure what's the logic behind this PR, but isn't this a change in the opposite direction from what we want?

File: theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v [hunk 19]
```diff
@@ -4,8 +4,9 @@ From stdpp Require Import prelude finite.
 From VLSM.Lib Require Import Preamble ListExtras StdppListSet.
 From VLSM.Core Require Import VLSM VLSMProjections Composition ProjectionTraces Validator.
 From VLSM.Core Require Import SubProjectionTraces Equivocation.
-From VLSM.Core.Equivocation Require Import NoEquivocation.
-From VLSM.Core.Equivocators Require Import Equivocators EquivocatorsProjections Composition.EquivocatorsComposition MessageProperties.
+From VLSM.Core Require Import Equivocation.NoEquivocation.
+From VLSM.Core Require Import Equivocators.Equivocators Equivocators.EquivocatorsProjections.
+From VLSM.Core Require Import Equivocators.Composition.EquivocatorsComposition Equivocators.MessageProperties.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/EquivocatorsCompositionProjections.v:9]: Again.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v (hunk 15 above)
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v:3]: I think you should go over all imports again and make sure imports from Coq's standard library are not written out in full, like @palmskog suggested.

File: theories/VLSM/Core/VLSMProjections.v [hunk 20]
```diff
@@ -2,8 +2,8 @@ From Cdcl Require Import Itauto. #[local] Tactic Notation "itauto" := itauto aut
 From stdpp Require Import prelude.
 From Coq Require Import FunctionalExtensionality.
 From VLSM.Core Require Import VLSM.
-From VLSM.Core.VLSMProjections Require Export VLSMPartialProjection VLSMTotalProjection.
-From VLSM.Core.VLSMProjections Require Export VLSMEmbedding VLSMInclusion VLSMEquality.
+From VLSM.Core Require Export VLSMPartialProjection VLSMTotalProjection.
+From VLSM.Core Require Export VLSMEmbedding VLSMInclusion VLSMEquality.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:6]: Again, why remove the `.VLSMProjections` suffix from the `From`?

**Review by wkolowski — COMMENTED** [review]
Looks ok, but please reply to my suggestions.

File: theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v (hunk 18 above)
Comment (DafinaTrufas) [reply theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:7]: Then it's possible that I misunderstood the pattern of the imports we want to achieve.

Comment (wkolowski) [reply theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:7]: I don't know either what's desired, but @palmskog probably does.

Comment (palmskog) [reply theories/VLSM/Core/Equivocation/MsgDepLimitedEquivocation.v:7]: We can come up with some improved scheme later, but for this PR, I wanted to homogenize to `From VLSM.X Require Import ...`. 

Yes, this has the consequence that some `From VLSM.X.Y Require Import ..` become more verbose, but consistency is a priority for now.
